US07723333B2
4-(Trifluoromethoxy)phenyl N-(tert-butoxycarbonyl)-β-alaninate
The title compound was prepared from N-(tert-butoxycarbonyl)-β-alanine and 4-(trifluoromethoxy)phenol in a similar manner as described for 2,6-dimethylphenyl 4-[(tert-butoxycarbonyl)amino]butanoate. Mass Spectrum (M-tert-Bu)+H+ 293.96

reactant | N-(tert-butoxycarbonyl)-β-alanine | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | 4-(trifluoromethoxy)phenol | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | 2,6-dimethylphenyl 4-[(tert-butoxycarbonyl)amino]butanoate | C(C)(C)(C)OC(=O)NCCCC(=O)OC1=C(C=CC=C1C)C | C17H25NO4
product | 4-(Trifluoromethoxy)phenyl N-(tert-butoxycarbonyl)-β-alaninate | C(C)(C)(C)OC(=O)NCCC(=O)OC1=CC=C(C=C1)OC(F)(F)F | C15H18F3NO5
